US09212187B2
Synthesis of 6-(3-chloropropoxy)-1-methyl-1H-quinolin-2-one
Potassium carbonate (0.829 g) was dissolved in acetonitrile(10 ml) and water(10 ml), and 6-hydroxy-2-methoxyquinoline(0.875 g) and 1-chloro-3-bromopropane(1.48 ml) was added thereto, and the mixture was stirred while heating under reflux for 4 hours. The reaction mixture was condensed under reduced pressure. Water was added to the residue, followed by extraction using ethyl acetate. The organic layer was dried with sodium sulfate, and was condensed under reduced pressure. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=1:1). The purified product was condensed to dryness under reduced pressure to give the title compound(1.107 g) as a white powder.

reactant | Potassium carbonate | 0.829 g | C([O-])([O-])=O.[K+].[K+]
reactant | 6-hydroxy-2-methoxyquinoline | 0.875 g | OC=1C=C2C=CC(=NC2=CC1)OC | C10H9NO2
reactant | 1-chloro-3-bromopropane | 1.48 ml | ClCCCBr | C3H6BrCl
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | water | 10 ml | O | H2O
product | 6-(3-chloropropoxy)-1-methyl-1H-quinolin-2-one | 1.107 g | ClCCCOC=1C=C2C=CC(N(C2=CC1)C)=O | C13H14ClNO2
